US06313094B1
In a methanol solution containing 2.0 g of H-Gly-OMe.HCl, 2.12 ml of cyclohexanecarboxaldehyde was added and the resultant mixture was stirred overnight in H2 atomosphere in the presence of 200 mg of 10% palladium-charcoal. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure to give N-(cyclohexylmethyl)glycine methyl ester [H-(cHexm)Gly-OMe]. The CHCl3 solution of the amino ester obtained above was mixed with 3.32 ml of triethylamine and 4.18 g of Boc2O under ice cooling and the mixture was stirred for 3 hr. The stirred mixture was washed with 5% aqueous citric acid solution, 5N aqueous sodium hydrogencarbonate solution, and saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. The dried solution was evaporated under reduced pressure. The residue was. subjected to a silica gel column chromatography (chloroform) to give oily Boc-(cHexm)Gly-OMe. The oily product was dissolved in methanol and 11.4 ml of 1N-NaOH aqueous solution was added and the resultant solution was stirred for 2 hr at room temperature. The obtained solution was neutralized with citric acid, evaporated and dissolved in ethyl acetate. The ethyl acetate solution was washed with 5% aqueous citric acid solution and saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. The dried solution was evaporated under reduced pressure. The residue was dissolved in methanol and cyclohexylamine was added to the solution, then the resultant solution was evaporated and crystallized from ether to give 1.75 g of the title compound.

reactant | H-Gly-OMe.HCl | 2.0 g | NCC(=O)OC.Cl
reactant | cyclohexanecarboxaldehyde | 2.12 ml | C1(CCCCC1)C=O | C7H12O
catalyst | palladium-charcoal | 200 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(cyclohexylmethyl)glycine methyl ester | COC(CNCC1CCCCC1)=O | C10H19NO2
